### PR TITLE
Write call single-step, single-thread unwind

### PR DESCRIPTION
**Pull request by aferr**
This commit finishes a proof of the single-step, single-threaded
unwinding condition for just the write call and just in the case where
the label of the node making the call does flow to the label of the
observer. Several new smaller theorems are introduced but admitted for
now. They should be relatively simple. The files are reorganized a bit.

# Checklist

- [ ] Pull request affects core Oak functionality (e.g. runtime, SDK, ABI)
  - [ ] I have written tests that cover the code changes.
  - [ ] I have checked that these tests are run by
        [Cloudbuild](/cloudbuild.yaml)
  - [ ] I have updated [documentation](/docs/) accordingly.
  - [ ] I have raised an [issue](https://github.com/project-oak/oak/issues) to
        cover any TODOs and/or unfinished work.
- [ ] Pull request includes prototype/experimental work that is under
      construction.

### CODE REVIEW

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 1]
```diff
@@ -1,68 +1,148 @@
...
+        (chans (state_upd_chan han ch1 s1)) (chans (state_upd_chan han ch2 s2)).
+Proof.
+Admitted. (* WIP // TODO *)
+
+Theorem node_low_eq_reflexive:
+    forall ell n, node_low_eq ell n n.
+Proof.
+Admitted. (* WIP // TODO *)
+
+
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:88]: nit: extra line break

File: experimental/ni_coq/vfiles/NIUtilTheorems.v [hunk 2]
```diff
@@ -1,68 +1,148 @@
...
+Theorem other_chan_exists_from_chans_leq: forall ell s1 s2 han ch1,
+    chan_state_low_eq ell (chans s1) (chans s2) ->
+    (chans s1).[? han] = Some ch1 ->
+    exists ch2, ((chans s2).[? han ] = Some ch2) /\
+        (chan_low_eq ell ch1 ch2).
+Proof.
+Admitted. (* WIP // TODO *)
+
+
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/NIUtilTheorems.v:97]: nit: extra line break

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 3]
```diff
@@ -80,124 +83,65 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
         (step_node_ev id (ncall n2) t2 t2') /\
         (trace_low_eq ell t1' t2')).
 Proof.
+    intros.
+    assert (Hsleq_s1s2: state_low_eq ell s1 s2) by
+        (eapply trace_leq_imples_head_st_leq; eassumption).
+    inversion H4; subst.
+    - (* WriteChannel *)
+        inversion H8. assert (s = s1) by congruence.
+        assert (n0 = n) by congruence. subst.
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:92]:
```suggestion
        replace n0 with n by congruence.
```

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 4]
```diff
@@ -80,124 +83,65 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
...
+        assert (n = n1) by congruence. subst.
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:93]:
```suggestion
        replace n1 with n by congruence.
```

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 5]
```diff
@@ -80,124 +83,65 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
         (step_node_ev id (ncall n2) t2 t2') /\
         (trace_low_eq ell t1' t2')).
 Proof.
+    intros.
+    assert (Hsleq_s1s2: state_low_eq ell s1 s2) by
+        (eapply trace_leq_imples_head_st_leq; eassumption).
+    inversion H4; subst.
+    - (* WriteChannel *)
+        inversion H8. assert (s = s1) by congruence.
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:91]:
```suggestion
        inversion H8. replace s1 with s by congruence.
```

File: experimental/ni_coq/vfiles/PossibilisticNI.v [hunk 6]
```diff
@@ -80,124 +83,65 @@ Theorem possibilistic_ni_1step_node: forall ell id t1 t2 s1 s2 n1 n2 t1',
...
+        --  (* the step happens *)
+            assert ((ncall n) = WriteChannel han msg) by congruence.
+            rewrite H9.
+            eapply SWriteChan; auto; try eassumption; try congruence.
+            rewrite Heqs2'. (* replace n' with (node_del_rhans (rhs msg) n ) in *. *)
+            rewrite Heqch2'.
+            eapply RuntimeModel.SWriteChan; auto; try eassumption; try congruence.
+            inversion Hchanleq; subst; congruence.
+        -- (* the traces are low-equivalent*)
+            constructor; try congruence.
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/PossibilisticNI.v:123]: If you're expecting `congruence` to leave a specific number of subgoals unsolved here, it can be nice to use the `[ | ... | ]` syntax to indicate how many. For instance, if you expect three remaining subgoals, you could write `constructor; try congruence; [ | | ]` and then you'd get a failure if there was a different number of goals remaining. It's easier to get an error early than getting one inside a bullet-point and having to figure out that this was a subgoal you expected `congruence` to dispatch. If you expect `congruence` to solve all but the last subgoal, you could use `[ congruence .. | ]` instead, which could have speed benefits because Coq won't even try to run `congruence` on the last goal.

File: experimental/ni_coq/vfiles/Unwind.v [hunk 7]
```diff
@@ -0,0 +1,105 @@
...
+    intros. inversion H0. 
+    split.
+    - (* nodes *) 
+        intros id'. destruct (id' =P id). 
+        + (* eq *) 
+            rewrite e;
+            rewrite !state_upd_node_eq; assumption.
+        + (* neq *) 
+            rewrite !state_upd_node_neq.
+            apply (H1 id').  assumption. assumption.
```
Comment (jadephilipoom) [inline experimental/ni_coq/vfiles/Unwind.v:57]: nit:
```suggestion
            apply (H1 id'); assumption.
```

**Review by jadephilipoom — APPROVED** [review]
LGTM!

File: experimental/ni_coq/vfiles/PossibilisticNI.v (hunk 4 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/PossibilisticNI.v]: I like the way you wrote it better, but the proofs didn't work for me locally anymore, so I went back to the old way just for that reason. (I also tried replace ... in * by congruence). Similar situation for the others.

File: experimental/ni_coq/vfiles/PossibilisticNI.v (hunk 6 above)
Comment (aferr) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:123]: Neither of the bracket syntax suggestions seem to work for me. Are we using the same version of coq, I wonder? I'm on 8.12.0.

This looks useful anyway.

Comment (jadephilipoom) [reply experimental/ni_coq/vfiles/PossibilisticNI.v:123]: Maybe the subgoal you were expecting to leave unsolved isn't the last subgoal in the sequence produced by `constructor`? The bracket syntax goes `[ <tactic for subgoal 1> | <tactic for subgoal 2> | <tactic for subgoal 3> ]` for however many subgoals you have. Writing `..` within the `[ ]` works like `*` in a regular expression, so the `[ congruence .. | ]` example says "run congruence on every goal except the last one, leaving the last one untouched". (The `..` can be used anywhere in the bracket expression also; `[ congruence | .. | tauto ]` would run congruence on the first goal, `tauto` on the last one, and leave the rest untouched.)

Anyway, not an essential change for this piece of code, just a useful bit of syntax I wanted to mention :)
